US07893267B2
0.4 g (2.0 mmol) of isoquinoline-3-carboxylic acid and 800 mg (2.1 mmol) HBTU were dissolved in 3.0 mL of DMF and 0.6 mL of DIEA and treated with 0.35 g (1.5 mmol) of 2-amino-5,7-difluoro-6-methoxy-1H-benzoimidazole-4-carboxylic acid methyl ester as described in general procedure A to produce 0.3 g (0.73 mmol, 49%) of 5,7-difluoro-2-[(isoquinoline-3-carbonyl)-amino]-6-methoxy-3H-benzoimidazole-4-carboxylic acid methyl ester. LCMS: 413 (M+1)+.

reactant | isoquinoline-3-carboxylic acid | 2.0 mmol, 0.4 g | C1=NC(=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | HBTU | 2.1 mmol, 800 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-5,7-difluoro-6-methoxy-1H-benzoimidazole-4-carboxylic acid methyl ester | 1.5 mmol, 0.35 g | COC(=O)C1=C(C(=C(C=2NC(=NC21)N)F)OC)F | C10H9F2N3O3
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 5,7-difluoro-2-[(isoquinoline-3-carbonyl)-amino]-6-methoxy-3H-benzoimidazole-4-carboxylic acid methyl ester | 0.73 mmol, 0.3 g, 49% | COC(=O)C1=C(C(=C(C=2N=C(NC21)NC(=O)C=2N=CC1=CC=CC=C1C2)F)OC)F | C20H14F2N4O4
